US07989457B2
Step A. 3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid methyl ester
Combine 1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptan-1-ol (0.050 g, 0.15 mmol) and 3-fluoro-4-hydroxy-benzoic acid methyl ester (0.030 g, 0.18 mmol) in toluene (0.5 mL). Add 1,1′-(diazocarbonyl)dipiperidine (0.057 g, 0.23 mmol) followed by tributyl-phosphine (0.06 mL, 0.23 mmol) under inert atmosphere. Stir at room temperature for 16 hours. Dilute reaction with ethyl acetate filter and remove solvent under reduced pressure. Purify on silica gel chromatography (0-40% ethyl acetate/hexane gradient) to provide 0.04 g of title compound (57%).

reactant | 1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptan-1-ol | 0.15 mmol, 0.050 g | FC(C1=CC=C(C=C1)C1=CC=C(C=N1)C(CCCCCC)O)(F)F | C19H22F3NO
reactant | 3-fluoro-4-hydroxy-benzoic acid methyl ester | 0.18 mmol, 0.030 g | COC(C1=CC(=C(C=C1)O)F)=O | C8H7FO3
reactant | tributyl-phosphine | 0.23 mmol, 0.06 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Fluoro-4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid methyl ester | 0.04 g, 57% | COC(C1=CC(=C(C=C1)OC(CCCCCC)C=1C=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)F)=O | C27H27F4NO3
